US05925789
Preparation of N-((3',4'-Dimethoxy)benzyl)-4-chloro-2-trifluoroacetylaniline
4-Chloro-2-trifluoroacetylaniline (4.96 g, 40 mmol) and 3,4-dimethoxybenzyl alcohol (7.39 g, 44 mmol) were added to 2-propanol (40 mL). TSOH (76 mg, 0.4 mmol) was added and the mixture heated to 60° C. and held 3.5 hours. The solution was concentrated in vacuo to 1/2 the original volume, diluted with water (10 mL) and stirred at room temperature. The resulting slurry was filtered and the product dried in vacuo at 30° C. to give 10.16 g (68%) of the title compound as a yellow powder. An analytical sample was obtained by recrystallization from acetonitrile: mp 82-84° C.; 1H NMR (CDCl3) δ 9.05 (brs, 1H), 7.75 (brt, J=2 Hz, 1H), 7.35 (dd, J=2, 8 Hz, 1H), 6.8 (d, J=8 Hz, 3H), 6.75 (d, J=8 Hz, 1H), 4.43 (d, J5 Hz, 2H), 3.88 (s, 3H), 3.87 (s, 3H); 13C NMR (CDCl3) δ 179.9, 151.9, 149.4, 148.7, 137.4, 130.8, 130.8, 130.7, 129.4, 119.4, 114.5, 111.5, 111.4, 110.3, 56.1, 56.0, 47.0; 19F NMR (CDCl3) δ -69.61.

reactant | 4-Chloro-2-trifluoroacetylaniline | 40 mmol, 4.96 g | ClC1=CC(=C(N)C=C1)C(C(F)(F)F)=O | C8H5ClF3NO
reactant | 3,4-dimethoxybenzyl alcohol | 44 mmol, 7.39 g | COC=1C=C(CO)C=CC1OC | C9H12O3
solvent | 2-propanol | 40 mL | CC(C)O | C3H8O
product | N-((3',4'-Dimethoxy)benzyl)-4-chloro-2-trifluoroacetylaniline | 10.16 g, 68% | COC=1C=C(CNC2=C(C=C(C=C2)Cl)C(C(F)(F)F)=O)C=CC1OC | C17H15ClF3NO3
